US09226916B2
{(3S,4R)-4-(4-Chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid propyl ester
In analogy to the procedure described for the synthesis of example 136, the title compound {(3S,4R)-4-(4-chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid propyl ester was prepared from [(3R,4S)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yl]-methanone instead of 4-[(3R,4S)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidine-1-carbonyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-5′-carbonitrile using propyl chloroformate instead of ethyl chloroformate and was obtained as a colorless foam. MS m/e: 490.4 [M]+.

reactant | [(3R,4S)-3-(4-chloro-phenyl)-4-methylamino-pyrrolidin-1-yl]-[1-(1-methyl-cyclopropanecarbonyl)-piperidin-4-yl]-methanone | ClC1=CC=C(C=C1)[C@@H]1CN(C[C@H]1NC)C(=O)C1CCN(CC1)C(=O)C1(CC1)C | C22H30ClN3O2
reactant | propyl chloroformate | ClC(=O)OCCC | C4H7ClO2
product | {(3S,4R)-4-(4-chloro-phenyl)-1-[1-(1-methyl-cyclopropanecarbonyl)-piperidine-4-carbonyl]-pyrrolidin-3-yl}-methyl-carbamic acid propyl ester | C(CC)OC(N(C)[C@@H]1CN(C[C@H]1C1=CC=C(C=C1)Cl)C(=O)C1CCN(CC1)C(=O)C1(CC1)C)=O | C26H36ClN3O4
